Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],3.80655266923
[H:3].[O:1]=[C:2]=[C:4]([H:5])[O:6][H:7]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][H:7],-2.93892439745
[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[O:11].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[O:11],-0.312215666089
[H:8].[O:1][O:2]/[C:3](=[C:4](/[H:5])[C:6][H:7])[C:9]([H:10])([H:11])[H:12]>>[O:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-5.019022367130002
[O:1][C@@:2]([C:3]#[C:4][H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:3]#[C:4][H:5].[O:1]=[C:2]([O:6][H:7])[C:8]([H:9])([H:10])[H:11],1.04998057207
[C:6]1[O:7][C:8]1[H:9].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[C:8][H:9],-0.737968511939
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:11].[H:1][O:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:12][H:13],2.07941136418
[H:10].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]#[C:8][H:9]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10],-2.37687349214
[H:18].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.42470773344
[H:1]/[C:2](=[C:3](/[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:10].[H:1]/[C:2](=[C:3](\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],3.94293567126
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],-4.79811383933
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])[C:5]#[C:6][H:7]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.44208961496
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8][O:9][H:10]>>[H:1][C:2]#[C:3][C:4]([H:5])[O:7][C:8][O:9][H:10].[H:6],3.81308383127
[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.60903706706
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]#[C:11][H:12]>>[H:12].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]#[C:11],4.58167472625
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12].[H:13]>>[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12][H:13],-3.7165958318
[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][H:7]>>[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-8.159307387410001
[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-1.51130723884
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2],5.28047307968
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-1.132377762
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8].[O:9][H:10]>>[H:1][O:2][C:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[O:9][H:10],-2.9068955101
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([H:9])=[C:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],-0.26767145859
[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([O:4][H:5])=[C:6]=[C:8]([H:9])[H:10].[H:7],2.29953312127
[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-6.0988331569000005
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])[H:9],2.9011570412
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7].[O:8]=[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11],-1.72884222789
[C:2](#[C:3][O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1]>>[O:1]=[C:2]([C:3][O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-3.5916080752900004
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][H:12].[O:1]=[C:2][H:3],4.42083377024
